US07176217B2
Ethyl 2-azabicyclo[2.2.2]octane-3-carboxylate is subjected to a reaction similar to the reaction (c) of Example 1 using [4-(4-methoxyphenyl)phenyl]sulfonyl chloride in place of 4-methoxybenzenesulfonyl chloride, to give ethyl 2-{[4′-methoxy(1,1′-biphenyl)-4-yl]sulfonyl}-2-azabicyclo[2.2.2]octane-3-carboxylate.

reactant | Ethyl 2-azabicyclo[2.2.2]octane-3-carboxylate | C12NC(C(CC1)CC2)C(=O)OCC | C10H17NO2
reactant | [4-(4-methoxyphenyl)phenyl]sulfonyl chloride | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
product | ethyl 2-{[4′-methoxy(1,1′-biphenyl)-4-yl]sulfonyl}-2-azabicyclo[2.2.2]octane-3-carboxylate | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N1C2CCC(C1C(=O)OCC)CC2 | C23H27NO5S
